US04066759
A suspension of 1.0 gram of N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginine in 15 ml of anhydrous methanol was saturated with dry hydrogen chloride for one hour. The reaction mixture was refluxed for an additional one hour. After cooling, the reaction mixture was concentrated in vacuo. The residue was triturated with cold ethyl ether to give a crystalline product. After crystallization from methanolethyl ether, N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginine methyl ester hydrochloride was obtained in 95% yield; mp. 115° - 118° C.

reactant | N2 (7-methoxy-2-naphthalenesulfonyl)-L-arginine | 1.0 gram | N#N.COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 15 ml | CO | CH4O
product | N2 (7-methoxy-2-naphthalenesulfonyl)-L-arginine methyl ester hydrochloride | 95% yield | N#N.Cl.COC([C@@H](NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)CCCNC(N)=N)=O | InChI=1S/C18H24N4O5S.ClH.N2/c1-26-14-7-5-12-6-8-15(11-13(12)10-14)28(24,25)22-16(17(23)27-2)4-3-9-21-18(19)20;;1-2/h5-8,10-11,16,22H,3-4,9H2,1-2H3,(H4,19,20,21);1H;/t16-;;/m0../s1
